US06489347B1
4-(4-Fluorophenyl)-3-[(3,4-methylenedioxyphenyl)oxycarbonyl]-piperidine-6-one
A solution of 4-(4-fluorophenyl)-3-carboxyethylpiperidin-6-one (0.5 g, 1.88 mmol, trans/cis ratio 56:44) in ethanol (10 ml) was added to a solution of sodium hydroxide (0.08 g, 2 mmol) in 95% ethanol (5 ml) and the mixture heated for 4 hours at 60° C. The solvent was removed at reduced pressure and the residue of water removed by distillation with toluene. The residue was suspended in dichloromethane (5 ml), treated with a solution of thionyl chloride (0.24 g, 2 mmol), and the mixture was brought to reflux. After 1 hour evolution of sulphur dioxide ceased, so the mixture was cooled to room temperature and treated with pyridine (0.16 g, 2 mmol) followed by a solution of sesamol (0.24 g, 1.75 mmol) in chloroform (2.5 ml). The resulting mixture was brought to reflux, heated for 4 hours, and stirred at ambient temperature for 2 days. The solvent was then removed at reduced pressure and the residue treated with water (5 ml), then extracted with ethyl acetate (20 and 10 ml). The organic extracts were combined, washed with brine (20 ml), dried over anhydrous sodium sulphate, filtered and evaporated to give the title compound (0.32 g).

reactant | 4-(4-fluorophenyl)-3-carboxyethylpiperidin-6-one | 1.88 mmol, 0.5 g | FC1=CC=C(C=C1)C1C(CNC(C1)=O)CCC(=O)O | C14H16FNO3
reactant | sodium hydroxide | 2 mmol, 0.08 g | [OH-].[Na+]
reactant | thionyl chloride | 2 mmol, 0.24 g | S(=O)(Cl)Cl | Cl2OS
reactant | sulphur dioxide | S(=O)=O | O2S
reactant | pyridine | 2 mmol, 0.16 g | N1=CC=CC=C1 | C5H5N
reactant | sesamol | 1.75 mmol, 0.24 g | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | chloroform | 2.5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(4-Fluorophenyl)-3-[(3,4-methylenedioxyphenyl)oxycarbonyl]-piperidine-6-one | 0.32 g | FC1=CC=C(C=C1)C1C(CNC(C1)=O)C(=O)OC1=CC2=C(C=C1)OCO2 | C19H16FNO5
